US09284284B2
e) [5-(5-Amino-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A solution of [5-(5-azido-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (2.18 g, 6.24 mmol) in EtOAc:EtOH 1:1 (150 ml) was hydrogenated over 10% Pd/C (0.21 g) and Lindlar catalyst (0.21 g) with 0.1 bar H2 for 4.5 h at rt. The reaction mixture was filtered through celite and concentrated to leave the title compound that was used in the next step without further purification.

reactant | [5-(5-azido-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 6.24 mmol, 2.18 g | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=C(C=CC(=C1)N=[N+]=[N-])F)=O | C16H20FN5O3
solvent | EtOAc EtOH | 150 ml | CCOC(=O)C.CCO
catalyst | Lindlar catalyst | 0.21 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
catalyst | Pd/C | 0.21 g | [Pd] | Pd
product | [5-(5-Amino-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=C(C=CC(=C1)N)F)=O | C16H22FN3O3
